US07989480B2
(S)-4-[4-(4-benzylphenoxy)-benzyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester
To a solution of (S)-4-(4-Hydroxy-benzyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (240 mg, 0.75 mmol, 1 eq. obtained from Brian Bock, Lot No: MCLS1172-077-1), 4-benzyliodobenzene (294 mg, 1 mmol, 1.3 eq.) in dioxane (4 ml) was added CuI(I) (30 mg, 0.75 mmol, 0.1 eq.), N,N-dimethylglycine (45 mg, 0.23 mmol, 0.3 eq.) and cesium carbonate (500 mg, 1.5 mmol, 3 eq.). The resulting mixture was stirred under Ar at reflux overnight. After cooling to room temperature, the volatile material was removed under reduced pressure to give a residue, which was partitioned between water (10 ml) and ethyl acetate (10 ml). The ethyl acetate layer was separated and dried over anhydrous MgSO4. Evaporation of solvent under reduced pressure gave a residue, which was passed through a plug of silica gel using dichloromethane (50 ml) as eluent to give 350 mg of desired product containing the starting iodide, which was forwarded to the next step without further purification.

reactant | (S)-4-(4-Hydroxy-benzyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.75 mmol, 240 mg, 1 eq. | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1=CC=C(C=C1)O)(C)C | C17H25NO4
reactant | 4-benzyliodobenzene | 1 mmol, 294 mg, 1.3 eq. | C(C1=CC=CC=C1)C1=CC=C(C=C1)I | C13H11I
reactant | N,N-dimethylglycine | 0.23 mmol, 45 mg, 0.3 eq. | CN(CC(=O)O)C | C4H9NO2
reactant | cesium carbonate | 1.5 mmol, 500 mg, 3 eq. | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (S)-4-[4-(4-benzylphenoxy)-benzyl]-2,2-dimethyloxazolidine-3-carboxylic acid tert-butyl ester | 350 mg | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1=CC=C(C=C1)OC1=CC=C(C=C1)CC1=CC=CC=C1)(C)C | C30H35NO4
